US04546198
(4-Chlorophenyl)isopropylketene
To a solution of 2.31 g of isopropyl(4-chlorophenyl)acetyl chloride in 10 ml of methylene chloride was added in one portion 1.5 g of triethylamine. After 18 hours, 15 ml of heptane was added to the mixture and the triethylamine hydrochloride removed by filtration. The filtrate was stripped and 10 ml of heptane was added and the resulting mixture was filtered and stripped to give a yellow residue, which was dissolved in 5 ml heptane for GLC analysis. The resulting solution was distilled through a Bantam-ware short-neck head from an oil bath at 125°-150° C. and head temperature of 110°-100° C. at 0.2-0.05 mm to give 0.95 g of distillate and 0.81 g of gum. The distillate was crystallized twice from 2 volumes of hexane at -80° C. The solid was melted and stripped to about 40° C. at 0.5 mm to give 0.42 g of the desired product as a yellow liquid.

reactant | isopropyl(4-chlorophenyl)acetyl chloride | 2.31 g | C(C)(C)C(C(=O)Cl)C1=CC=C(C=C1)Cl | C11H12Cl2O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 1.5 g | C(C)N(CC)CC | C6H15N
solvent | heptane | 5 ml | CCCCCCC | C7H16
solvent | heptane | 15 ml | CCCCCCC | C7H16
product | (4-Chlorophenyl)isopropylketene | 0.81 g | ClC1=CC=C(C=C1)C(=C=O)C(C)C | C11H11ClO
